US05633233
Synthesis of 2,3,4-tri-O-benzyl-xylopyranosyl bromide
2,3,4-tri-O-benzyl-xylopyranose was dissolved in dry dichloromethane (50 mL) and dry DMF (3.0 mL) was added. The reaction mixture was cooled at 0° C. and added dropwise oxayl bromide (1.4 mL). The reaction mixture was stirred for 1 hour at 0° to 5° C. and then diluted with dichloromethane (250 mL), washed with water (2×250 mL), dried over Na2SO4, filtered and evaporated to provide the title compound. The yield was quantitative for this step.

reactant | 2,3,4-tri-O-benzyl-xylopyranose | C(C1=CC=CC=C1)O[C@H]1C(O)OC[C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H28O5
reactant | DMF | 3.0 mL | CN(C)C=O | C3H7NO
reactant | oxayl bromide | 1.4 mL | OBr | BrHO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2,3,4-tri-O-benzyl-xylopyranosyl bromide | C(C1=CC=CC=C1)O[C@H]1C(OC[C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)Br | C26H27BrO4
